US05079252
A mixture of acyclovir prepared according to UK Patent No. 1523865 (3.11 moles), 4-dimethylaminopyridine (4.91 moles) and dimethylformamide (5.6 L) was stirred under nitrogen with heating on steam bath to give a homogeneous solution. On cooling to room temperature valeryl chloride (4.91 moles) was added dropwise while the temperature was maintained at 20°-25° C. Progress of the reaction was monitored by HPLC (Partisil ODS-3, methanol:water 50:50) and the reaction was terminated when the level of residual acyclovir was less than 0.5% (AUC). The mixture was cooled to 5° C., filtered and the cake was washed with dimethylformamide (200 ml). The combined filtrates were diluted with absolute ethanol (1 L), stirred for two hours at ambient temperature and concentrated to a thick oil. Methanol (16 L) was added and the resulting suspension was refluxed for 1.5 hours, cooled to 5° C. and filtered. The crude product was washed with methanol (200 mL) and dried under vacuum to constant weight to give 819 g (85.1% yield) of 9-(2-valeryloxyethoxymethyl) guanine, M.p. 215°-217° C.

reactant | acyclovir | C1=NC2=C(N1COCCO)N=C(N=C2O)N | C8H11N5O3
reactant | dimethylformamide | 5.6 L | CN(C=O)C | C3H7NO
reactant | valeryl chloride | 4.91 moles | C(CCCC)(=O)Cl | C5H9ClO
catalyst | 4-dimethylaminopyridine | 4.91 moles | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol water | CO.O
product | 9-(2-valeryloxyethoxymethyl) guanine | 819 g, 85.1% yield | C(CCCC)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C13H19N5O4
